US05929074
4-Chloro-5-(3-carboxymethyloxy-4-methoxybenzylamino)-3(2H)-pyridazinone
A mixture comprising 0.3 g of 4-chloro-5-[3-(4-methylpiperazin-1-yl)-carbonylmethoxy-4-methoxybenzylamino]-3(2H)-pyridazinone, 2.0 g of potassium hydroxide, 10 ml of ethanol and 2 ml of water, was refluxed under heating with stirring overnight. The reaction solution was neutralized with an aqueous hydrochloric acid solution. Then, the solvent was distilled off under reduced pressure. Then, water was added to the obtained residue, and the mixture was extracted with chloroform. The extract solution was washed with water and a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off to obtain 212 mg of the above-identified compound as white solid.

reactant | 4-chloro-5-[3-(4-methylpiperazin-1-yl)-carbonylmethoxy-4-methoxybenzylamino]-3(2H)-pyridazinone | 0.3 g | ClC=1C(NN=CC1N(CC1=CC(=C(C=C1)OC)N1CCN(CC1)C)OC=C=O)=O | C19H22ClN5O4
reactant | potassium hydroxide | 2.0 g | [OH-].[K+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
reactant | water | 2 ml | O | H2O
product | 4-Chloro-5-(3-carboxymethyloxy-4-methoxybenzylamino)-3(2H)-pyridazinone | 212 mg | ClC=1C(NN=CC1NCC1=CC(=C(C=C1)OC)OCC(=O)O)=O | C14H14ClN3O5
